US09421205B2
(d) tert-Butyl 4-(4-((4-((3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I102)
tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I43) (140 mg, 0.306 mmol), ethyl 2-(3-ethynylpyrazin-2-yl)acetate (I101) (64 mg, 0.34 mmol), bis(triphenylphosphine)palladium(II) chloride (11 mg, 5 mol %) and DMF (2 mL) were loaded into a microwave tube and degassed with a nitrogen for ten minutes. Copper(I) iodide (3 mg, 5 mol %) and triethylamine (0.192 mL, 1.38 mmol) were added under nitrogen and the resulting mixture heated under microwave irradiation (120° C./15 minutes). The cooled mixture was concentrated, and the residue evaporated onto silica gel. Chromatography (12 g silica cartridge, 0-100% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I102) (95.5 mg, 52% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.47 (s, 1H), 8.87 (d, J=0.5 Hz, 1H), 8.76-8.71 (m, 2H), 7.63 (d, J=8.6 Hz, 2H), 7.23 (d, J=8.6 Hz, 2H), 4.15-3.99 (m, 6H), 2.80 (s, 2H), 2.70-2.63 (m, 1H), 1.80-1.70 (m, 2H), 1.55-1.44 (m, 2H), 1.42 (s, 9H), 1.14 (t, J=7.1 Hz, 3H). LCMS Method C: rt 6.73 min; m/z 633.1 [M+Na]+, 555.0 [M-tBu+2H]+, 511.1 [M-Boc+2H]+; m/z 609.1 [M−H]−.

reactant | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.306 mmol, 140 mg | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | ethyl 2-(3-ethynylpyrazin-2-yl)acetate | 0.34 mmol, 64 mg | C(#C)C=1C(=NC=CN1)CC(=O)OCC | C10H10N2O2
reactant | triethylamine | 1.38 mmol, 0.192 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 3 mg | [Cu]I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-((3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 95.5 mg, 52% yield | C(C)OC(CC=1C(=NC=CN1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O4
